US06177132B1
(1) Synthesis of 3-[2-(trifluoromethyl)phenoxy]phthaionitrile
A reaction flask equipped with a cooling tube was loaded with 8.7 g of 3-nitrophthalonitrile, 9.4 g of 2-(trifluoromethyl)phenol, 13.8 g of anhydrous potassium carbonate and 350 ml of dimethyl sulfoxide, and the temperature was raised to 50° C. with stirring under nitrogen flow. After stirring at 50° C. for three hours, the heating was stopped. The reaction liquid was cooled and added into 500 ml of water, and the precipitated crystal was collected and dried to yield 13.5 g of the intended compound.

reactant | 3-nitrophthalonitrile | 8.7 g | [N+](=O)([O-])C1=C(C(C#N)=CC=C1)C#N | C8H3N3O2
reactant | 2-(trifluoromethyl)phenol | 9.4 g | FC(C1=C(C=CC=C1)O)(F)F | C7H5F3O
reactant | potassium carbonate | 13.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulfoxide | 350 ml | CS(=O)C | C2H6OS
solvent | water | 500 ml | O | H2O
product | 3-[2-(trifluoromethyl)phenoxy]phthaionitrile | 13.5 g | FC(C1=C(OC2=C(C(C#N)=CC=C2)C#N)C=CC=C1)(F)F | C15H7F3N2O
